US08461175B2
A 500 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 9.2 g of 2,6-difluoro-N-[5-(4-iodophenyl)-1H-pyrazol-4-yl]benzamide, 168 ml of phenylphosphine acid dichloride and 46.3 g of phosphorus pentoxide. After 23 h at 165° C., the mixture is cooled to RT and then poured into a mixture of 260 ml of water and 400 g of ice. The temperature rises to 40° C. Neutralization is carried out by slow addition of 930 ml of 3M sodium carbonate solution and then 110 ml of 28% aqueous ammonia. Extraction is carried out with once 1150 ml and 2 times 550 ml of AcOEt. The organic extracts are combined, washed with saturated NaCl solution and dried over MgSO4, and then concentrated under RP. The solid obtained is stirred in 220 ml of DCM at reflux for 15 min, cooled using an ice bath, and then filtered and washed with 2 times 28 ml of ice-cold DCM. Drying under vacuum at 40° C. gives 7.4 g of 5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline (cream solid). MS (E/I): m/z=407 (M+); 1H NMR: 7.39 (t, J=8.0H, 2H); 7.71 (m, 1H); 7.99 (broad s, 1H); 8.33 (m, 2H); 8.45 (broad s, 1H); 14.35 (broad s, 1H); m.p. (Kofler bench)=260° C.

reactant | 2,6-difluoro-N-[5-(4-iodophenyl)-1H-pyrazol-4-yl]benzamide | 9.2 g | FC1=C(C(=O)NC=2C=NNC2C2=CC=C(C=C2)I)C(=CC=C1)F | C16H10F2IN3O
reactant | phenylphosphine | 168 ml | C1(=CC=CC=C1)P | C6H7P
reactant | phosphorus pentoxide | 46.3 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium carbonate | 3M, 930 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonia | 110 ml | N | H3N
solvent | DCM | 220 ml | C(Cl)Cl | CH2Cl2
solvent | water | 260 ml | O | H2O
product | 5-(2,6-difluorophenyl)-7-iodo-1H-pyrazolo[4,3-c]isoquinoline | 7.4 g | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)I)NN=C2 | C16H8F2IN3
